US07217724B2
A solution of (R)-[2-(7-diethylcarbamoyl-1H-indol-3-yl)-1-methyl-2-oxoethyl]carbamic acid 9H-fluoren-9-ylmethyl ester (10.24 g, 20.1 mmol) in a mixture of acetonitrile (134 mL) and 2-propanol (7.7 ml) is added sodium borohydride (3.80 g, 100 mmol) in portions at room temperature with stirring, and the mixture is refluxed for 4 hours. The reaction solution is cooled to room temperature, and thereto is added dropwise methanol (200 ml). The reaction mixture is concentrated to dryness under reduced pressure. To the residue are added ethyl acetate and water, and the mixture is stirred. The organic layer is separated, washed with a saturated brine, and dried over anhydrous sodium sulfate. The solvent is evaporated under reduced pressure, and the residue is purified by silica gel column chromatography (methanol/(a saturated ammonia solution in chloroform)=1/100) to give the desired (R)-3-(2-aminopropyl)-1H-indole-7-carboxylic acid diethylamide (3.60 g, yield: 66%).

reactant | (R)-[2-(7-diethylcarbamoyl-1H-indol-3-yl)-1-methyl-2-oxoethyl]carbamic acid 9H-fluoren-9-ylmethyl ester | 20.1 mmol, 10.24 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(N[C@@H](C(=O)C1=CNC2=C(C=CC=C12)C(N(CC)CC)=O)C)=O | C31H31N3O4
reactant | sodium borohydride | 100 mmol, 3.80 g | [BH4-].[Na+]
reactant | methanol | 200 ml | CO | CH4O
solvent | acetonitrile | 134 mL | C(C)#N | C2H3N
solvent | 2-propanol | 7.7 ml | CC(C)O | C3H8O
product | (R)-3-(2-aminopropyl)-1H-indole-7-carboxylic acid diethylamide | 3.60 g, yield: 66% | C(C)N(C(=O)C=1C=CC=C2C(=CNC12)C[C@@H](C)N)CC | C16H23N3O
